US04367234
5-(5-Chloro-2-ethoxyphenyl)oxazolidine-2,4-dione
By the procedure of Example 54, but using only 2.3 equivalents of triethylamine, ethyl 1-(5-chloro-2-ethoxyphenyl)-1-hydroxymethanecarboximidate (8.0 g., 0.029 mole) in 300 ml. of tetrahydrofuran was reacted with phosgene. After stirring for 2 hours at room temperature, isolation was also according to Example 54, substituting chloroform for ethyl acetate, resulting in toluene recrystallized 5-(5-chloro-2-ethoxyphenyl)-oxazolidine-2,4-dione (2.7 g., m.p. 197°-199° C.).

reactant | triethylamine | 2.3 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(5-chloro-2-ethoxyphenyl)-1-hydroxymethanecarboximidate | 0.029 mole, 8.0 g | ClC=1C=CC(=C(C1)C(C(OCC)=N)O)OCC | C12H16ClNO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(5-Chloro-2-ethoxyphenyl)oxazolidine-2,4-dione | ClC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OCC | C11H10ClNO4
